US08669234B2
5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester:
5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester 6-methyl ester (244 mg, 0.840 mmol) was dissolved in THF (2.0 mL)/MeOH (1.5 mL) An aqueous solution of LiOH (35.5 mg, 0.84 mmol) was added and stirring at room temperature was continued. After 3 hours, the reaction was neutralized with aqueous HCl (1M) and the organic solvents were removed in vacuo. The crude mixture was diluted with water and EtOAc and the organic layer was collected. All volatiles were removed in vacuo and the crude acid was used without further purification. LCMS-ESI+: calc'd for C15H17NO4: 275.3 (M+). Found: 276.3 (M+H+).

reactant | 5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester 6-methyl ester | 0.840 mmol, 244 mg | COC(=O)C1N(CC2(CC2)C1)C(=O)OCC1=CC=CC=C1 | C16H19NO4
reactant | LiOH | 0.84 mmol, 35.5 mg | [Li+].[OH-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1.5 mL | CO | CH4O
product | 5-Aza-spiro[2.4]heptane-5,6-dicarboxylic acid 5-benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2(CC2)CC1C(=O)O | C15H17NO4
